US05006515
Diethyl 3-phenyl-2-isoxazolin-5-ylmethylphosphonate
In analogy to Example 1, 76.7 g of an oily crude product are obtained starting from 30.3 g (0.25 mol) of benzaldoxime, 36.7 g (0.275 mol) of N-chlorosuccinimide, 49 g (0.275 mol) of diethyl allylphosphonate and 38.2 ml (0.275 mol) of triethylamine and can be purified as described in Example 1.

reactant | benzaldoxime | 0.25 mol, 30.3 g | C(C1=CC=CC=C1)=NO | C7H7NO
reactant | N-chlorosuccinimide | 0.275 mol, 36.7 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | diethyl allylphosphonate | 0.275 mol, 49 g | C(C=C)P(OCC)(OCC)=O | C7H15O3P
reactant | triethylamine | 0.275 mol, 38.2 ml | C(C)N(CC)CC | C6H15N
product | Diethyl 3-phenyl-2-isoxazolin-5-ylmethylphosphonate | C1(=CC=CC=C1)C1=NOC(C1)CP(OCC)(OCC)=O | C14H20NO4P
